US08349824B2
To a cooled solution of 5-(ethoxycarbonyl)-1-methyl-1H-pyrazole-4-carboxylic acid (1.5 g, 7.57 mmole), N-ethyldiisopropylamine (3.97 ml, 22.7 mmole) and azetidine (1.02 ml, 15.1 mmole) in ethyl acetate (30 ml) is added at 0° C. propanephosphonic acid cyclic anhydride (50% in ethyl acetate, 11.4 ml, 18.9 mole). The ice-bath is removed and the light yellow solution is stirred for 3 hr at room temperature. The light yellow solution is adjusted to pH 9 with sat. aqueous sodium carbonate solution, the aqueous layer is separated and extracted twice with ethyl acetate. The combined organic layer is washed with water and brine, dried with magnesium sulfate and the solvent is removed in vacuo affording 4-(azetidine-1-carbonyl)-2-methyl-2H-pyrazole-3-carboxylic acid ethyl ester (1.09 g, 60.7%) as a light brown viscous oil. MS: m/z=238.2 (M+H+).

reactant | 5-(ethoxycarbonyl)-1-methyl-1H-pyrazole-4-carboxylic acid | 7.57 mmole, 1.5 g | C(C)OC(=O)C1=C(C=NN1C)C(=O)O | C8H10N2O4
reactant | N-ethyldiisopropylamine | 22.7 mmole, 3.97 ml | C(C)N(C(C)C)C(C)C | C8H19N
reactant | azetidine | 15.1 mmole, 1.02 ml | N1CCC1 | C3H7N
solvent | ethyl acetate | 30 ml | C(C)(=O)OCC | C4H8O2
product | 4-(azetidine-1-carbonyl)-2-methyl-2H-pyrazole-3-carboxylic acid ethyl ester | 1.09 g, 60.7% | C(C)OC(=O)C=1N(N=CC1C(=O)N1CCC1)C | C11H15N3O3
